US07057073B2
Diaminopicric acid (0.100 g, 0.386 mmol) is suspended in water (6.85 ml) and a 50% aqueous solution of sodium hydroxide (0.65 ml,12.5 mmol) is added. The suspension is stirred for 0.5 hr in a heated water bath (98–100° C.) to produce an orange-red suspension which is cooled to 4° C. Addition of cold 12N hydrochloric acid (4 ml) produces a deep yellow suspension that is heated to solution. Cooling to 4° C. produces orange-yellow crystals (needles) that are collected, washed with cold 3N hydrochloric acid and dried to give trinitrophloroglucinol (0.085 g) in 84% yield. The IR spectrum for this material corresponds to that for known trinitrophloroglucinol.

reactant | Diaminopicric acid | 0.386 mmol, 0.100 g | NC1=C(C(=C([N+](=O)[O-])C(=C1[N+](=O)[O-])O)N)[N+](=O)[O-] | C6H5N5O7
reactant | sodium hydroxide | 12.5 mmol, 0.65 ml | [OH-].[Na+]
reactant | hydrochloric acid | 12N, 4 ml | Cl | ClH
reactant | water | 6.85 ml | O | H2O
product | trinitrophloroglucinol | 0.085 g, 84% yield | [N+](=O)([O-])C1=C(C(=C(C(=C1O)[N+](=O)[O-])O)[N+](=O)[O-])O | C6H3N3O9
